US08471005B2
1-Methyl-4-piperidin-3-yl-piperazine (1.46 g, 7.96 mmol), 4-Fluoronitrobenzene (1.0 g, 7.2 mmol) and Potassium carbonate (2.50 g, 18.1 mmol) were dissolved in N,N-Dimethylformamide (50 mL, 600 mmol). The reaction mixture was then heated at 100° C. and was allowed to stir overnight. The reaction mixture was poured over saturated ammonium chloride and organics were extracted with dichloromethane/ethyl acetate. Combined extracts were then dried over sodium sulfate, filtered and reduced. The crude reaction mixture was then purified by Isco flash column chromatography (hexanes/ethyl acetate eluent). Combined fractions were reduced and dried under vacuum to afford 1.40 g of 1-Methyl-4-[1-(4-nitro-phenyl)-piperidin-3-yl]-piperazine.

reactant | 1-Methyl-4-piperidin-3-yl-piperazine | 7.96 mmol, 1.46 g | CN1CCN(CC1)C1CNCCC1 | C10H21N3
reactant | 4-Fluoronitrobenzene | 7.2 mmol, 1.0 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Potassium carbonate | 18.1 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-Dimethylformamide | 600 mmol, 50 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
product | 1-Methyl-4-[1-(4-nitro-phenyl)-piperidin-3-yl]-piperazine | 1.40 g | CN1CCN(CC1)C1CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H24N4O2
